US07432378B2
6-Chloro-4-methyl-2-{2-methyl-4-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propoxy]-phenyl}-1H-benzoimidazole
2-Methyl-4-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propoxy]-benzaldehyde. To a solution of 3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propan-1-ol (2.24 g, 14.5 mmol, 1.0 equiv) and pyridine (1.64 mL, 20.2 mmol, 1.4 equiv) in dichloromethane (50 mL) at 0° C. was added p-toluenesulfonyl chloride (3.85 g, 20.2 mmol, 1.4 equiv). The reaction mixture, which was allowed to warm to rt, was stirred for 12 h and then poured into water. The aqueous mixture was extracted with dichloromethane and the extract was dried (Na2SO4), filtered, and concentrated. The residue was subjected to column chromatography on silica gel (10% methanol in dichloromethane) and the resulting oil was added to a mixture of 4-hydroxy-2-methyl-benzaldehyde (639 mg, 4.69 mmol) and K2CO3 (1.62 g, 11.7 mmol) in DMF and warmed to 100° C. After stirring for 16 h, the mixture was allowed to cool to rt and filtered through a pad of diatomaceous earth. The diatomaceous earth was rinsed with ethyl acetate, and the filtrate was concentrated. The residue was purified by Method 2 to afford 356 mg (9%) of the title compound. 1H NMR (400 MHz, CD3OD): 10.1 (s, 1H), 7.78 (d, J=8.6 Hz, 1H), 6.92 (dd, J=8.6, 2.4 Hz, 1H), 6.84 (d, J=2.1 Hz, 1H), 5.49-5.43 (m, 1H), 4.09 (t, J=6.3 Hz, 2H), 2.97-2.91 (m, 2H), 2.65-2.57 (m, 5H), 2.35 (s, 3H), 2.25-2.16 (m, 4H), 1.99-1.88 (m, 2H).

reactant | 2-Methyl-4-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propoxy]-benzaldehyde | CC1=C(C=O)C=CC(=C1)OCCCC=1CCN(CC1)C | C17H23NO2
reactant | 3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propan-1-ol | 14.5 mmol, 2.24 g, 1.0 equiv | CN1CCC(=CC1)CCCO | C9H17NO
reactant | pyridine | 20.2 mmol, 1.64 mL, 1.4 equiv | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 20.2 mmol, 3.85 g, 1.4 equiv | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-hydroxy-2-methyl-benzaldehyde | 4.69 mmol, 639 mg | OC1=CC(=C(C=O)C=C1)C | C8H8O2
reactant | K2CO3 | 11.7 mmol, 1.62 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 6-Chloro-4-methyl-2-{2-methyl-4-[3-(1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl)-propoxy]-phenyl}-1H-benzoimidazole | 356 mg, 9% | ClC=1C=C(C2=C(NC(=N2)C2=C(C=C(C=C2)OCCCC=2CCN(CC2)C)C)C1)C | C24H28ClN3O
